US06387926B1
F) 4-Bromo-3-(bromomethyl)benzonitrile
To a solution of of 4-bromo-3-methylbenzonitrile (1.0 g, 5.0 mmol) in carbon tetrachloride (7.5 mL) was added N-bromosuccinimide (1.0 g, 5.6 mmol) followed by of benzoylperoxide (50 mg 0.2 mmol) and the mixture was refluxed. After 10 hours, the reaction was cooled to rt, filtered, and the filtrate was washed with 10% NaHSO3 (5 mL) followed by water (5 mL). The organic layer was dried (Na2SO4), filtered, volatiles removed, and the residue was purified by flash chromatography on silica gel. Elution with 10% Ethyl acetate in hexanes gave the title compound (0.5 g, 36%) as a white solid. 1H NMR (270 MHz, CDCl3) δ 4.55 (s, 2H), 7.38-7.42 (m, 1H), 7.65-7.77 (m, 2H).

reactant | 4-bromo-3-methylbenzonitrile | 5.0 mmol, 1.0 g | BrC1=C(C=C(C#N)C=C1)C | C8H6BrN
reactant | N-bromosuccinimide | 5.6 mmol, 1.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoylperoxide | 0.2 mmol, 50 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 7.5 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Bromo-3-(bromomethyl)benzonitrile | 0.5 g, 36% | BrC1=C(C=C(C#N)C=C1)CBr | C8H5Br2N
